US04219505
Under a blanket of nitrogen were mixed 2,2,6,6-tetrachlorocyclohexanone (100 parts), sodium acetate (424 parts) and water (1,059 parts), and the mixture refluxed for 10 minutes. The mixture was then cooled to 50° C. when sodium bicarbonate (318 parts) was added giving severe foaming. The mixture was then extracted continuously with ether, the extract dried over magnesium sulphate and evaporated to give a residue (39 parts). The residue was triturated with chloroform (39 parts ) to give after filtering and drying in air 15.2 parts of pyrogallol (28.5% yield) as a tan solid, m.pt. 130.5°-133.5° C.

reactant | 2,2,6,6-tetrachlorocyclohexanone | ClC1(C(C(CCC1)(Cl)Cl)=O)Cl | C6H6Cl4O
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | pyrogallol | 28.5% yield | C1(O)=C(O)C(O)=CC=C1 | C6H6O3
